US06255333B1
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)4-trimethylsilylethynylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)4-iodopyrazole (10 g) in dimethylformamide (45 ml) at room temperature was added triethylamine (34 ml), trimethylsilylacetylene (6 ml), cuprous iodide (0.4 g), and bis(triphenylphosphine)palladium(II) chloride (0.4 g). The mixture was heated at 75° C. for 6 hours. The cooled reaction mixture was evaporated to dryness and the residue partitioned between water and dichloromethane. The organic layer was separated and washed with water, then brine, and then dried (Na2SO4) and evaporated to give the crude product which was purified by column chromatography on silica gel (400 g) eluting with dichloromethane. Combination and evaporation of suitable fractions provided an oily solid which was further purified by column chromatography on silica gel (400 g) eluting with dichloromethane/hexane. Combination and evaporation of suitable fractions followed by recrystallisation of their residue from dichloromethane/hexane provided the title compound as a buff solid m.p. 165-169° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)4-iodopyrazole | 10 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)SC(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4S
reactant | triethylamine | 34 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 6 ml | C[Si](C)(C)C#C | C5H10Si
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)4-trimethylsilylethynylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)SC(F)(F)F)Cl)C#N)C#C[Si](C)(C)C | C16H13Cl2F3N4SSi
